US08039463B2
HOBt (34 mg, 0.25 mmol) and DIPEA (67.9 mg, 0.51 mmol) were added to a stirred solution of 3-fluorobenzoic acid (29 mg, 0.21 mmol) in DMF (1.5 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (48 mg, 0.25 mmol) followed by N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride (75 mg, 0.2 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water. The resulting precipitate was filtered and dried to afford 91 mg (98%) of N-biphenyl-4-yl-3-[4-(3-fluoro-benzoyl)-piperazin-1-yl]-3-oxo-propionamide. LCMS: 446.18 (M+1)+ 98.1%, 1H NMR: (CDCl3): δ 9.6 (s, 1H), 7.6 (m, 6H), 7.46 (m, 3H), 7.34 (m, 1H), 7.16 (m, 3H), 3.7 (bs, 7H), 3.54 (s, 3H).

reactant | HOBt | 0.25 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 67.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-fluorobenzoic acid | 0.21 mmol, 29 mg | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | EDCI.HCl | 0.25 mmol, 48 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride | 0.2 mmol, 75 mg | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-[4-(3-fluoro-benzoyl)-piperazin-1-yl]-3-oxo-propionamide | 91 mg, 98% | C1(=CC=C(C=C1)NC(CC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)F)=O)=O)C1=CC=CC=C1 | C26H24FN3O3
